US04367234
5-(2-Chloro-6-methoxyphenyl)-3-ethoxycarbonyloxazolidine-2,4-dione
Anhydrous sodium 5-(2-chloro-6-methoxyphenyl)-oxazolidine-2,4-dione (542 mg., 2.06 moles) from Example 119 and ethyl chloroformate (291 mg., 268 mmoles) were combined with 20 ml. of toluene and the mixture refluxed for 3 hours, cooled to room temperature, stirred for a further 16 hours, and evaporated to solids (415 mg.). The solids were recrystallized from toluene to yield purified 5-(2-chloro-6-methoxyphenyl)-3-ethoxycarbonyloxazolidine-2,4-dione. (212 mg., m.p. 196°-200° C.).

reactant | sodium 5-(2-chloro-6-methoxyphenyl)-oxazolidine-2,4-dione | 2.06 moles, 542 mg | ClC1=C(C(=CC=C1)OC)C1C(NC(O1)=O)=O.[Na]
reactant | ethyl chloroformate | 268 mmoles, 291 mg | ClC(=O)OCC | C3H5ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Chloro-6-methoxyphenyl)-3-ethoxycarbonyloxazolidine-2,4-dione | ClC1=C(C(=CC=C1)OC)C1C(N(C(O1)=O)C(=O)OCC)=O | C13H12ClNO6
